US06200933B1
Production of 4-methylmercapto-6-[3-(trifluoromethyl) phenoxy] picolinic acid (Compound No. I-8)
2-bromo-4-methylmercapto-6-[3-(trifluoromethyl)phenoxy] pyridine (5.00 g, 0.0137 mol) was dissolved in about 200 ml of diethyl ether. While cooling in a dry ice-acetone bath in an argon atmosphere, the obtained solution was mixed with n-butyl lithium [9.3 ml (ca. 1.63 M in hexane solution), 0.0137×1.1 mol] and then stirred for about 10 minutes. After the interior of the reactor was replaced with a carbon dioxide gas, the solution was removed from the bath and stirred at room temperature for about one hour. The obtained reaction solution was mixed with about 15 ml of a 4 N aqueous hydrochloric acid solution. The obtained solution was distributed in ethyl acetate-water and then washed with saturated brine. The organic phase separated from the solution was dried with anhydrous sodium sulfate, concentrated and then purified by silica gel column chromatography (eluting solution: ethyl acetate/hexane), thereby obtaining an aimed product.

reactant | 2-bromo-4-methylmercapto-6-[3-(trifluoromethyl)phenoxy] pyridine | 0.0137 mol, 5.00 g | BrC1=NC(=CC(=C1)SC)OC1=CC(=CC=C1)C(F)(F)F | C13H9BrF3NOS
reactant | n-butyl lithium | 1.1 mol, ca. 1.63 M, 9.3 ml | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | diethyl ether | about 200 ml | C(C)OCC | C4H10O
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 4-methylmercapto-6-[3-(trifluoromethyl) phenoxy] picolinic acid | CSC1=CC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)C(=O)O | C14H10F3NO3S
